US05559266
(i) Chloromethyl Phenyl Carbonate
Phenyl chloroformate (9.0 g, 57.5 mmol) was dissolved in 1,2-dichloroethane (50 ml) and pyridine (0.22 g, 2.8 mmol) was added dropwise to the stirred solution. In another reactor, paraformaldehyde (7.0 g, 233.1 mmol) was heated with a heat gun to generate the gaseous monomer. The formaldehyde gas was bubbled into the first reactor through a tube with the outlet below the surface of the liquid. Stirred at 65° C. for 3 hours. Washed three times with water, dried (MgSO4) and concentrated. Distillation (Bp. 64°-67° C. 5×10-4 mbar) yielded 2.7 g product. The product was further purified by flash chromatography (Silikagel 60, petroleum ether/ethyl acetate 95: 5). Yield: 2.1 g. 1H-NMR (CDCl3): delta=5.78 (CH2); 7.18-7.41 ppm (phenyl).

reactant | Phenyl chloroformate | 57.5 mmol, 9.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 2.8 mmol, 0.22 g | N1=CC=CC=C1 | C5H5N
reactant | paraformaldehyde | 233.1 mmol, 7.0 g | C=O | CH2O
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | Chloromethyl Phenyl Carbonate | 2.7 g | C(OCCl)(OC1=CC=CC=C1)=O | C8H7ClO3
